US07144906B2
Methyl 2-(9-chloro-8-oxononyloxy)-2-methylpropionate
Methyl 2-(9-chloro-8-hydroxynonyloxy)-2-methylpropionate (31 g) was dissolved in 465 ml of acetone, and 46 ml of Jones reagent prepared by adding 10.2 ml of conc. sulfuric acid and 12 g of chromic (VI) oxide to 45 ml of water was added dropwise with stirring under ice-cooling. After 3-hour-stirring at room temperature, an excess amount of Jones reagent was decomposed by adding isopropyl alcohol, The reaction mixture was poured into ice-cold water, extracted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane: ethyl acetate=7.5:1) to provide 18.16 g of the objective compound as oil.

reactant | Methyl 2-(9-chloro-8-hydroxynonyloxy)-2-methylpropionate | 31 g | ClCC(CCCCCCCOC(C(=O)OC)(C)C)O | C14H27ClO4
reactant | Jones reagent | 46 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sulfuric acid | 10.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 45 ml | O | H2O
solvent | acetone | 465 ml | CC(=O)C | C3H6O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | Methyl 2-(9-chloro-8-oxononyloxy)-2-methylpropionate | 18.16 g | ClCC(CCCCCCCOC(C(=O)OC)(C)C)=O | C14H25ClO4
